US07378418B2
361F. Preparation of 8-Chloro-7-(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one
A stirring solution of triphosgene (17.5 g, 59.0 mmol) in THF (150 mL) was cooled to 0° C. under argon and a mixture of 1-(4-chloro-5-(4-chlorophenyl)pyridazin-3-yl)hydrazine and 1-(3-chloro-5-(4-chlorophenyl)pyridazin-4-yl)hydrazine, as prepared in Example 361E, (3.0 g gross) was added over 3 min. The reaction mixture was then allowed to warm to RT gradually and then was stirred for 16 h. The solvent was removed under vacuum to reduce the reaction mixture to half its original volume, and the resulting suspension was cooled in an ice bath. Ice water (300 mL) was added, followed by stirring for 30 min. The product was collected by filtration and washed with 0.5 N aqueous HCl (20 mL×2), then H2O (20 mL×2). After drying under vacuum at room temperature for 16 h, the title compound, 8-chloro-7-(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one, (2.1 g) was obtained as a yellow solid. MS [M+H]+ 281; HPLC retention time=2.71 min.

reactant | triphosgene | 59.0 mmol, 17.5 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 1-(4-chloro-5-(4-chlorophenyl)pyridazin-3-yl)hydrazine | ClC1=C(N=NC=C1C1=CC=C(C=C1)Cl)NN | C10H8Cl2N4
reactant | 1-(3-chloro-5-(4-chlorophenyl)pyridazin-4-yl)hydrazine | ClC=1N=NC=C(C1NN)C1=CC=C(C=C1)Cl | C10H8Cl2N4
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 8-chloro-7-(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 2.1 g | ClC=1C=2N(N=CC1C1=CC=C(C=C1)Cl)C(NN2)=O | C11H6Cl2N4O
